US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-[2-(3-nitrophenoxy)acetyl]piperazin-1-yl)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-piperazin-1-yl-thiazolo[5,4-d]pyrimidine (50 mg, 0.14 mmol) and 3-nitrophenoxyacetic acid (0.23 mmol) in DMF (2 ml) was added TBTU (0.21 mmol) followed by diisopropylethylamine (0.21 mmol, 35 μL). The reaction was stirred at room temperature for 24 hours after which the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 0.5% CH3OH in CH2Cl2), yielding the pure title compound (41 mg) which was characterized by its mass spectrum: MS m/z (%): 538 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-piperazin-1-yl-thiazolo[5,4-d]pyrimidine | 0.14 mmol, 50 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCNCC2 | C17H19FN6S
reactant | 3-nitrophenoxyacetic acid | 0.23 mmol | [N+](=O)([O-])C=1C=C(OCC(=O)O)C=CC1 | C8H7NO5
reactant | TBTU | 0.21 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 0.21 mmol, 35 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(4-[2-(3-nitrophenoxy)acetyl]piperazin-1-yl)-thiazolo[5,4-d]pyrimidine | 41 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC(=CC=C2)[N+](=O)[O-])=O | C25H24FN7O4S
